US08912180B2
To a mixture of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-(piperidin-4-ylmethyl)pyrimidin-2-amine (50 mg) and 1,2-dimethoxyethane (1 mL) were added bromobenzene (24 μL), tris(dibenzylideneacetone)dipalladium (0) (6.5 mg), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (11 mg), and potassium phosphate (96 mg), and the mixture was stirred in a microwave reactor at 130° C. for 1 hour. The reaction mixture was filtered through celite, and to the filtrate was added silica gel, followed by concentrating under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate) to obtain 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-N-[(1-phenylpiperidin-4-yl)methyl]pyrimidin-2-amine (39 mg) as a white powder.

reactant | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-(piperidin-4-ylmethyl)pyrimidin-2-amine | 50 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NCC1CCNCC1)C=CC=C2)F | C22H27F2N7O
reactant | bromobenzene | 24 μL | BrC1=CC=CC=C1 | C6H5Br
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 11 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium phosphate | 96 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium | 6.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,2-dimethoxyethane | 1 mL | COCCOC | C4H10O2
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-N-[(1-phenylpiperidin-4-yl)methyl]pyrimidin-2-amine | 39 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NCC1CCN(CC1)C1=CC=CC=C1)C=CC=C2)F | C28H31F2N7O
